data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_169756_0,[C:1](/[C:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[C:5]([H:14])[H:15])=[N:6]/[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:3]1=[C:4]([C:2]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[N:6]1[H:7])([H:8])([H:9])[H:10],50.32361749999893
MR_477809_1,[C:1]1([H:12])([H:13])[C:5](=[O:9])[N:4]([C:2]([H:14])([H:15])[H:16])[C:6]([N:8]([H:10])[H:11])=[C:7]1[C:3]([H:17])([H:18])[H:19]>>[C:1]1([H:12])([H:13])[C:5](=[O:9])[C:7]1([C:3]([H:17])([H:18])[H:19])/[C:6](=[N:4]/[C:2]([H:14])([H:15])[H:16])[N:8]([H:10])[H:11],64.13049999998876
MR_110310_0,[N:1]([C:2]([O:4][H:7])=[O:5])([C:3](=[O:6])[H:9])[H:8]>>[N:1](=[C:3](/[O:6][C:2]([O:4][H:7])=[O:5])[H:9])\[H:8],51.61689500001529
MR_329598_0,[C:1]([C:3](/[C:5](=[N:6]\[C:2]([N:4]([H:9])[H:10])=[O:7])[H:11])=[O:8])([H:12])([H:13])[H:14]>>[C:1]([C:3]1([O:8][C:2]([N:4]([H:9])[H:10])=[O:7])[C:5]([H:11])=[N:6]1)([H:12])([H:13])[H:14],62.97213500002414
MR_344130_0,[C:1](/[C:2]([O:3][O:4][H:6])=[N:5]\[H:7])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:4][H:6])[O:3][N:5]1[H:7])([H:8])([H:9])[H:10],65.3572624999947
MR_320394_0,[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([C:6](=[O:8])[H:12])[H:10])([N:5]([C:3]([H:16])([H:17])[H:18])[H:11])[O:7][H:9]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:4]([C:6]([N:5]([C:3]([H:16])([H:17])[H:18])[H:11])([O:8][H:9])[H:12])[H:10])=[O:7],49.90633000001807
MR_488068_1,[C:1]([O:6][C:3]([N:2]([N:4]([H:10])[H:11])[H:9])=[C:5]([H:14])[H:15])([O:7][H:8])([H:12])[H:13]>>[C:1]([C:5]([C:3]([N:2]([N:4]([H:10])[H:11])[H:9])=[O:6])([H:14])[H:15])([O:7][H:8])([H:12])[H:13],50.170507499993136
MR_50133_0,[C:1]([N:2]([C:3]([N:4]([H:9])[H:10])=[O:6])[H:8])([O:5][H:7])([H:11])[H:12]>>[C:1]([N:2]([C:3]([N:4]([H:9])[H:10])([O:6][H:7])[H:12])[H:8])(=[O:5])[H:11],72.61492750000485
MR_226824_0,[C:1](=[C:4](\[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([N:5]([H:13])[H:14])=[O:9])[H:15])[O:8][H:11])(\[O:7][H:10])[H:12]>>[C:1]([C:3]([N:5]([H:13])[H:14])=[O:9])(/[C:4](=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])[O:8][H:11])([O:7][H:10])[H:12],71.9692299999943
MR_325034_1,[N:1]1([O:7][H:8])[C:2]2([N:3]([H:9])[H:10])[C:4]1([H:11])[C:6]([H:13])=[C:5]2[H:12]>>[n:1]1([O:7][H:8])[c:2]([N:3]([H:9])[H:10])[c:5]([H:12])[c:6]([H:13])[c:4]1[H:11],17.93834250000998
MR_267898_0,[C:1]([C:3]([N:2]([N:4]([H:9])[H:10])/[C:6](=[N:7]\[N:5]([H:11])[H:12])[H:13])=[O:8])([H:14])([H:15])[H:16]>>[C:1]([C:3]([N:7]([N:5]([H:11])[H:12])/[C:6](=[N:2]/[N:4]([H:9])[H:10])[H:13])=[O:8])([H:14])([H:15])[H:16],40.73039750000007
MR_220933_0,[C:1](=[C:6]([C:4]([C:2]([H:15])([H:16])[H:17])([C:3]([O:7][H:9])=[O:8])[N:5]([H:10])[H:11])[H:14])([H:12])[H:13]>>[C:1]([C:3]([O:7][H:9])=[O:8])(/[C:6](=[C:4](\[C:2]([H:15])([H:16])[H:17])[N:5]([H:10])[H:11])[H:14])([H:12])[H:13],65.18344500000552
MR_534747_0,[C:1]([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])([C:4](=[O:6])[H:12])[O:5][H:7]>>[C:1]1([N:2]([H:8])[H:9])([N:3]([H:10])[H:11])[C:4]([O:5][H:7])([H:12])[O:6]1,19.296252500005835
MR_343498_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([O:7][H:10])[C:4](=[O:8])[C:5](=[O:9])[C:2]([H:11])([H:12])[O:6]1>>[C:1]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]1([O:9][H:10])[C:2]([H:11])([H:12])[O:6]1)=[O:8])=[O:7],44.82295249997577
MR_575325_0,[C:1]1([H:10])([H:11])[C:3]([O:8][H:9])=[C:4]([C:2]([H:12])([H:13])[H:14])[O:7][C:5]1=[C:6]([H:15])[H:16]>>[C:1]1([H:10])([H:11])[C:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:7])([O:8][H:9])[C:5]1=[C:6]([H:15])[H:16],61.7271749999928
MR_314187_1,[C:1]([C:5]([C:4]([N:2]([C:3]([O:8][H:10])=[O:9])[H:11])=[C:6]([H:15])[H:16])=[C:7]([H:17])[H:18])([H:12])([H:13])[H:14]>>[C:1]([C:5](/[C:4](=[N:2]\[H:11])[C:6]([C:3]([O:8][H:10])=[O:9])([H:15])[H:16])=[C:7]([H:17])[H:18])([H:12])([H:13])[H:14],57.15458250001632
MR_684_1,[C:1]([N:2]([H:5])[H:6])([C:3](=[C:4]([H:10])[H:11])[H:8])([H:7])[H:9]>>[C:1]1([N:2]([H:5])[H:6])([H:7])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11],63.20556499998766
MR_312486_0,[C:1]([C:2]([H:12])([H:13])[H:16])([C:3]([H:14])([H:15])[H:17])([O:6]/[C:5](=[N:7]/[N:4]([H:9])[H:10])[H:11])[H:8]>>[C:1]([C:2]([H:12])([H:13])[H:16])([C:3]([H:14])([H:15])[H:17])([N:7]([N:4]([H:9])[H:10])[C:5](=[O:6])[H:11])[H:8],50.1071299999748
MR_221009_0,[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])([C:6]([O:9][H:11])=[O:10])[C:8](=[C:7]([C:4]([H:20])([H:21])[H:22])[C:5]([H:19])([H:23])[H:24])[H:12]>>[C:1]([C:2]([H:14])([H:15])[H:16])([C:3]([H:13])([H:17])[H:18])=[C:8]([C:7]([C:4]([H:20])([H:21])[H:22])([C:5]([H:19])([H:23])[H:24])[C:6]([O:9][H:11])=[O:10])[H:12],73.12131999997476
MR_511811_0,[C:1](\[N:2]([H:9])[H:10])(=[C:4](\[O:6][H:8])[H:12])[O:5][C:3](=[O:7])[H:11]>>[C:1]([N:2]([H:9])[H:10])([C@@:4]([C:3](=[O:7])[H:11])([O:6][H:8])[H:12])=[O:5],30.64396250003369
MR_437830_0,[C:1](/[C:5]([C:7](/[C:4](=[N:3]/[O:9][H:11])[C:6]([C:2]([H:16])([H:17])[H:18])=[C:8]([H:21])[H:22])([H:19])[H:20])=[N:10]/[H:12])([H:13])([H:14])[H:15]>>[C:1](/[C:5]([N:3]([C:4]([C:6]([C:2]([H:16])([H:17])[H:18])=[C:8]([H:21])[H:22])=[C:7]([H:19])[H:20])[O:9][H:11])=[N:10]/[H:12])([H:13])([H:14])[H:15],64.37585249997568
